US07179833B2
Step A: Ethyl(2S)-2-[(4S)-4-methyl-2-oxido-5-oxo-1,2,3-oxathiazolidin-3-yl]-pentanoate
Introduce into a reactor 200 g of N-[(S)-ethoxycarbonyl-1-butyl]-(S)-alanine and 1.5 liters of dichloromethane and then, at 0° C., add 325 g of 1H-imidazole-1-sulphinyl chloride. Subsequently, bring the reaction mixture to ambient temperature and then, after stirring for 1 hour, filter off the precipitate formed. The filtrate obtained is evaporated to dryness to yield the expected product in the form of an oil.

reactant | N-[(S)-ethoxycarbonyl-1-butyl]-(S)-alanine | 200 g | CCC[C@@H](C(=O)OCC)N[C@@H](C)C(=O)O | C10H19NO4
reactant | 1H-imidazole-1-sulphinyl chloride | 325 g | N1(C=NC=C1)S(=O)Cl | C3H3ClN2OS
solvent | dichloromethane | 1.5 liters | ClCCl | CH2Cl2
product | Ethyl(2S)-2-[(4S)-4-methyl-2-oxido-5-oxo-1,2,3-oxathiazolidin-3-yl]-pentanoate | C[C@@H]1N(S(OC1=O)=O)[C@H](C(=O)OCC)CCC | C10H17NO5S
